US07994171B2
1-(pyrazin-2-yl)cyclopropanamine.
To a solution of allyl 1-(pyrazin-2-yl)cyclopropylcarbamate (0.12 g, 0.547 mmol, 1 eq) and morpholine (0.47 ml, 5.47 mmol, 10 eq) in THF (3 ml) was added Pd(PPh3)4 (0.038 g, 0.033 mmol, 0.06 eq), and the yellow mixture was stirred at 50° C. for 3 h. The solvent was removed under a stream of N2 and the residue was purified by flash chromatography using 4-7% of methanol in dichloromethane to give the compound as a yellow oil. Yield: 0.05 g (68.5%). 1H NMR (400 MHz, CD3OD): δ 1.17-1.20 (m, 2H), 1.36-1.38 (m, 2H), 8.36-8.37 (d, J=2.4 Hz, 1H), 8.49-8.50 (q, 1H), 8.85-8.85 (d, J=1.6 Hz, 1H). LCMS: (ES+) m/z=136.2 (M+H)+

reactant | allyl 1-(pyrazin-2-yl)cyclopropylcarbamate | 0.547 mmol, 0.12 g, 1 eq | N1=C(C=NC=C1)C1(CC1)NC(OCC=C)=O | C11H13N3O2
reactant | morpholine | 5.47 mmol, 0.47 ml, 10 eq | N1CCOCC1 | C4H9NO
solvent | THF | 3 ml | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.033 mmol, 0.038 g, 0.06 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(pyrazin-2-yl)cyclopropanamine | N1=C(C=NC=C1)C1(CC1)N | C7H9N3
